US08039483B2
Carbonic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester (4-fluoro-phenyl)-(3-fluoro-phenyl)-methyl ester
The desired product was prepared by reacting imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester with (3-fluoro-phenyl)-(4-fluoro-phenyl)-methanol.

reactant | imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester | N12C[C@@H](C(CC1)CC2)OC(=O)N2C=NC=C2 | C11H15N3O2
reactant | (3-fluoro-phenyl)-(4-fluoro-phenyl)-methanol | FC=1C=C(C=CC1)C(O)C1=CC=C(C=C1)F | C13H10F2O
product | Carbonic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester (4-fluoro-phenyl)-(3-fluoro-phenyl)-methyl ester | FC1=CC=C(C=C1)C(C1=CC(=CC=C1)F)OC(O[C@H]1CN2CCC1CC2)=O | C21H21F2NO3
